US06133271
With the procedure of Example 1, the reaction of benzylamine with 4-chloro-2-(pyridin-4-yl)-6-nitro-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-4-yl)-4-benzylamino-6-nitro-thieno-[2,3-d]-pyrimidine.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-chloro-2-(pyridin-4-yl)-6-nitro-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NC=C1)SC(=C2)[N+](=O)[O-] | C11H5ClN4O2S
product | 2-(pyridin-4-yl)-4-benzylamino-6-nitro-thieno-[2,3-d]-pyrimidine | N1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC=CC=C2 | C18H13N5O2S
